US08106070B2
5-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-5-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidin-2-one
Ammonium acetate (1.18 g, 15.4 mmol) was added to an ambient temperature solution of N-(4,4-dimethyl-2-oxohexyl)-2-[4-(5-fluoropyridin-2-yl)benzyl]-5-oxopyrrolidine-2-carboxamide in xylenes (minimal volume). After stirring in a sealed tube at 160° C. for 1 hr, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. High pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.05% trifluoroacetic acid afforded the title compound. (M+H) found: 421.

reactant | Ammonium acetate | 15.4 mmol, 1.18 g | C(C)(=O)[O-].[NH4+]
reactant | N-(4,4-dimethyl-2-oxohexyl)-2-[4-(5-fluoropyridin-2-yl)benzyl]-5-oxopyrrolidine-2-carboxamide | CC(CC(CNC(=O)C1(NC(CC1)=O)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C25H30FN3O3
product | 5-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-5-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidin-2-one | CC(CC=1N=C(NC1)C1(CCC(N1)=O)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C25H29FN4O
